US08557984B2
7-(3,5-Dimethyl-4-isoxazolyl)-8-(methyloxy)-1-[(1R)-1-(2-pyridinyl)ethyl]-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one (for a preparation see Example 36, 100 mg) in DMF (5 ml) was treated with 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine, polymer bound (300 mg) and a solution of 2-bromoethyl methyl ether (40 mg) in DMF (0.5 ml). The reaction was stirred at ambient temperature, air atm for ˜3 h and then left at ambient temperature overnight. The reaction was filtered and the resin washed with methanol. The solvents were evaporated under a stream of nitrogen to leave a yellow gum which was dissolved in DMSO (1 ml) and purified by MDAP (Method formate). The product fractions were combined and reduced to dryness in vacuo to give 7-(3,5-dimethyl-4-isoxazolyl)-8-(methyloxy)-3-[2-(methyloxy)ethyl]-1-[(1R)-1-(2-pyridinyl)ethyl]-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one as a pale yellow gum (56 mg)

reactant | 7-(3,5-Dimethyl-4-isoxazolyl)-8-(methyloxy)-1-[(1R)-1-(2-pyridinyl)ethyl]-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one | CC1=NOC(=C1C=1C(=CC=2C3=C(C=NC2C1)NC(N3[C@H](C)C3=NC=CC=C3)=O)OC)C | C23H21N5O3
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | 2-bromoethyl methyl ether | 40 mg | COCCBr | C3H7BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 7-(3,5-dimethyl-4-isoxazolyl)-8-(methyloxy)-3-[2-(methyloxy)ethyl]-1-[(1R)-1-(2-pyridinyl)ethyl]-1,3-dihydro-2H-imidazo[4,5-c]quinolin-2-one | 56 mg | CC1=NOC(=C1C=1C(=CC=2C3=C(C=NC2C1)N(C(N3[C@H](C)C3=NC=CC=C3)=O)CCOC)OC)C | C26H27N5O4
